US04182776
Ethyl 4-{[3-(4-chlorophenoxy)propyl]amino}benzoate
A mixture of 17.1 g. of ethyl p-aminobenzoate, 14.6 g. of 3-(4-chlorophenoxy)-1-propanol O-methanesulfonate and 100 ml. of hexamethylphosphoramide is heated at 110°-115° C. for 16 hours. The solution is diluted with 100 ml. of water, allowed to cool and is filtered to give 12.5 g. of solid. Recrystallization from cyclohexane gives 7.8 g. of yellow needles. Chromatography over silica gel gives 6.8 g. of product as white crystals, m.p. 87°-88° C.

reactant | ethyl p-aminobenzoate | NC1=CC=C(C(=O)OCC)C=C1 | C9H11NO2
reactant | 3-(4-chlorophenoxy)-1-propanol O-methanesulfonate | CS(=O)(=O)OCCCOC1=CC=C(C=C1)Cl | C10H13ClO4S
reactant | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | water | O | H2O
product | Ethyl 4-{[3-(4-chlorophenoxy)propyl]amino}benzoate | ClC1=CC=C(OCCCNC2=CC=C(C(=O)OCC)C=C2)C=C1 | C18H20ClNO3
